### PR TITLE
[Merged by Bors] - feat(Matroid/Rank): more ENat rank API

### PR DESCRIPTION
**Pull request by apnelson1**
We add more basic API for `ENat`-valued matroid rank. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matroid/Rank/ENat.lean [hunk 1]
```diff
@@ -351,6 +352,188 @@ lemma IsRkFinite.eRk_lt_top (h : M.IsRkFinite X) : M.eRk X < ⊤ :=
 
 @[deprecated (since := "2025-04-13")] alias eRk_lt_top_of_finite := IsRkFinite.eRk_lt_top
 
+/-- If `X` is a finite-rank-set, and `I` is a subset of `X` of cardinality
```
Comment (b-mehta) [inline Mathlib/Data/Matroid/Rank/ENat.lean:355]:
```suggestion
/-- If `X` is a finite-rank set, and `I` is a subset of `X` of cardinality
```
to match the below

File: Mathlib/Data/Matroid/Rank/ENat.lean [hunk 2]
```diff
@@ -351,6 +352,188 @@ lemma IsRkFinite.eRk_lt_top (h : M.IsRkFinite X) : M.eRk X < ⊤ :=
...
+  obtain ⟨I, hI⟩ := M.exists_isBasis' X
+  rw [← hI.closure_eq_closure, mem_diff, hI.indep.mem_closure_iff', not_and] at he
+  rw [← eRk_closure_eq, ← closure_insert_congr_right hI.closure_eq_closure, hI.eRk_eq_encard,
+    eRk_closure_eq, Indep.eRk_eq_encard (by tauto), encard_insert_of_not_mem (by tauto)]
+
+lemma exists_eRk_insert_eq_add_one_of_lt (h : M.eRk X < M.eRk Z) :
+    ∃ z ∈ Z \ X, M.eRk (insert z X) = M.eRk X + 1 := by
+  by_cases hz : Z ∩ M.E ⊆ M.closure X
+  · exact False.elim <| h.not_le <| by simpa using M.eRk_mono hz
+  obtain ⟨e, ⟨⟨heZ, heE⟩, heX⟩⟩ := not_subset.1 hz
```
Comment (b-mehta) [inline Mathlib/Data/Matroid/Rank/ENat.lean:396]:
```suggestion
  obtain ⟨e, ⟨heZ, heE⟩, heX⟩ := not_subset.1 hz
```

File: Mathlib/Data/Matroid/Rank/ENat.lean [hunk 3]
```diff
@@ -351,6 +352,188 @@ lemma IsRkFinite.eRk_lt_top (h : M.IsRkFinite X) : M.eRk X < ⊤ :=
...
+  rw [← hI.eq_of_subset_of_encard_le' hJ.subset]
+  · exact hJ.indep
+  rw [← h, ← hJ.eRk_eq_encard]
+
+lemma indep_iff_eRk_eq_encard [M.RankFinite] : M.Indep I ↔ M.eRk I = I.encard := by
+  refine ⟨Indep.eRk_eq_encard, fun h ↦ ?_⟩
+  obtain hfin | hinf := I.finite_or_infinite
+  · rwa [indep_iff_eRk_eq_encard_of_finite hfin]
+  rw [hinf.encard_eq] at h
+  exact False.elim <| (M.isRkFinite_set I).eRk_lt_top.ne h
```
Comment (b-mehta) [inline Mathlib/Data/Matroid/Rank/ENat.lean:426]: These two have identical conclusions, is there some way we can derive one from the other; or some common assumption that proves both? If not, perhaps cross-referencing could be useful to describe the difference

**Review by b-mehta — APPROVED** [review]
This looks overall very reasonable. Is the idea that eRk/eRank are the intended formal ways of working with the informal notion of rank, rather than Nat-valued ones?

File: Mathlib/Data/Matroid/Rank/ENat.lean [hunk 4]
```diff
@@ -351,6 +352,188 @@ lemma IsRkFinite.eRk_lt_top (h : M.IsRkFinite X) : M.eRk X < ⊤ :=
...
+    add_le_add_left (by simpa using M.eRk_le_encard {e}) _
+
+lemma eRk_insert_eq_add_one (he : e ∈ M.E \ M.closure X) : M.eRk (insert e X) = M.eRk X + 1 := by
+  obtain ⟨I, hI⟩ := M.exists_isBasis' X
+  rw [← hI.closure_eq_closure, mem_diff, hI.indep.mem_closure_iff', not_and] at he
+  rw [← eRk_closure_eq, ← closure_insert_congr_right hI.closure_eq_closure, hI.eRk_eq_encard,
+    eRk_closure_eq, Indep.eRk_eq_encard (by tauto), encard_insert_of_not_mem (by tauto)]
+
+lemma exists_eRk_insert_eq_add_one_of_lt (h : M.eRk X < M.eRk Z) :
+    ∃ z ∈ Z \ X, M.eRk (insert z X) = M.eRk X + 1 := by
```
Comment (b-mehta) [inline Mathlib/Data/Matroid/Rank/ENat.lean:393]: I think this is the only lemma that uses `Z`, but you already have `variable Y`, it seems cleaner to just use that?

File: Mathlib/Data/Matroid/Rank/ENat.lean [hunk 5]
```diff
@@ -351,6 +352,188 @@ lemma IsRkFinite.eRk_lt_top (h : M.IsRkFinite X) : M.eRk X < ⊤ :=
...
+  by_cases hz : Z ∩ M.E ⊆ M.closure X
+  · exact False.elim <| h.not_le <| by simpa using M.eRk_mono hz
+  obtain ⟨e, ⟨⟨heZ, heE⟩, heX⟩⟩ := not_subset.1 hz
+  exact ⟨e, ⟨heZ, fun heX' ↦ heX (mem_closure_of_mem' _ heX')⟩, eRk_insert_eq_add_one ⟨heE, heX⟩⟩
+
+lemma IsRkFinite.closure_eq_closure_of_subset_of_forall_insert (hX : M.IsRkFinite X) (hXY : X ⊆ Y)
+    (hY : ∀ e ∈ Y \ X, M.eRk (Insert.insert e X) ≤ M.eRk X) : M.closure X = M.closure Y := by
```
[the remark this answers is not in the document]
Comment (apnelson1) [reply Mathlib/Data/Matroid/Rank/ENat.lean:400]: The problem is that `IsRkFinite.insert` exists, so this gives a namespace issue.

**Comment by apnelson1** [comment]
> This looks overall very reasonable. Is the idea that eRk/eRank are the intended formal ways of working with the informal notion of rank, rather than Nat-valued ones?

Yes, or at least I am doing everything for `ENat` rank first. Even though an infinite matroid isn't determined by its rank, it's a useful thing to have around. There is a parallel `Nat` rank file in the repo, which I think will be useful to have in mathlib in due course once more theorems from the literature are formalized.

File: Mathlib/Data/Matroid/Rank/ENat.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/Data/Matroid/Rank/ENat.lean:400]: Ah, that's annoying, I see

File: Mathlib/Data/Matroid/Rank/ENat.lean (hunk 3 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/Rank/ENat.lean:426]: I don't see a common abstraction - basically the second follows from the first because infinite sets can't satisfy the RHS or LHS in an finite-rank matroid. I've added a note.

**Review by b-mehta — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Data/Matroid/Rank/ENat.lean [hunk 6]
```diff
@@ -351,6 +352,190 @@ lemma IsRkFinite.eRk_lt_top (h : M.IsRkFinite X) : M.eRk X < ⊤ :=
...
+  refine hX.closure_eq_closure_of_subset_of_eRk_ge_eRk hXY <| not_lt.1 fun hlt ↦ ?_
+  obtain ⟨z, hz, hr⟩ := exists_eRk_insert_eq_add_one_of_lt hlt
+  simpa [hr, ENat.add_one_le_iff hX.eRk_lt_top.ne] using hY z hz
+
+lemma eRk_eq_of_eRk_insert_le_forall (hXY : X ⊆ Y)
+    (hY : ∀ e ∈ Y \ X, M.eRk (insert e X) ≤ M.eRk X) : M.eRk X = M.eRk Y := by
+  refine (M.eRk_mono hXY).eq_of_not_lt <| fun hlt ↦ ?_
+  obtain ⟨e, he, hins⟩ := exists_eRk_insert_eq_add_one_of_lt hlt
+  exact (hins.symm.trans_le <| hY e he).not_lt <|
+    (ENat.lt_add_one_iff (hlt.trans_le le_top).ne).2 rfl.le
```
[the remark this answers is not in the document]
Comment (apnelson1) [reply Mathlib/Data/Matroid/Rank/ENat.lean:410]: Yes, there are is one or more missing `ENat` lemma that would help here. I have collected a few such lemmas and have been intending to add them. I won't do this in an orthogonal PR that you just delegated, though. 

To sidestep this issue here, I've golfed this proof out of the `ENat` weeds by using the last lemma instead.
